US05556836
Boc-Pro-Gly-NH2
0.56 mg (5 mmol) of H-Gly-NH2.HCl are dissolved in 20 ml MeOH and 270 mg (5 mmol) NaOMe added. Stirring takes place for 10 min and the solvent is removed under vacuum. To the residue are added 15 ml DMF, 1.07 g (5 mmol) Boc-Pro-OH, 1.2 g (6.0 mmol) EDCI, 0.9 g (6 mmol) HOBT and 0.825 ml (7.5 mmol) NMM and stirring takes place for 16 hours. To the reaction mixture are added 10 g of mixed-bed ion exchanger (Merck ion exchanger V), stirring takes place for 0.5 hours, followed by filtering and washing with 10 ml MeOH. The filtrate is concentrated under vacuum, the resulting oil absorbed in 150 ml ethyl acetate and the organic phase washed three times with 10 ml 0.5N HCl, 10% NaHCO3 solution and H2O respectively.

reactant | H-Gly-NH2.HCl | 5 mmol, 0.56 mg | NCC(=O)N.Cl
reactant | NaOMe | 5 mmol, 270 mg | C[O-].[Na+]
reactant | Boc-Pro-OH | 5 mmol, 1.07 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | EDCI | 6.0 mmol, 1.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 6 mmol, 0.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 7.5 mmol, 0.825 ml | CN1CCOCC1 | C5H11NO
solvent | MeOH | 20 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Boc-Pro-Gly-NH2 | N1([C@H](C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C12H21N3O4
